US04569940
5-Pyrrolidinylsulphonyl-2-methoxybenzoic acid (D2)
5-Chlorosulphonyl-2-methoxybenzoic acid (4.9 g) was added to a solution of pyrrolidine (10 g) in water (150 ml). The solution was stirred for 6 hours, filtered and acidified with dilute hydrochloric acid to yield the title compound as colourless microcrystals (5.27 g; 84%).

reactant | 5-Chlorosulphonyl-2-methoxybenzoic acid | 4.9 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO5S
reactant | pyrrolidine | 10 g | N1CCCC1 | C4H9N
solvent | water | 150 ml | O | H2O
product | 5-Pyrrolidinylsulphonyl-2-methoxybenzoic acid | N1(CCCC1)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC | C12H15NO5S
